US04244970
Preparation of 2',6'-dichloro-2-hydroxy-4-methoxy-benzophenone
2',3'-Dichloro-2-hydroxy-4-methoxybenxophenone is synthesized similarily from m-methoxyphenol aluminum chloride and 2,3-dichlorobenzoyl chloride.

reactant | m-methoxyphenol aluminum chloride | [Cl-].[Al+3].COC=1C=C(C=CC1)O.[Cl-].[Cl-]
reactant | 2,3-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1Cl | C7H3Cl3O
product | 2',6'-dichloro-2-hydroxy-4-methoxy-benzophenone | ClC1=C(C(=CC=C1)Cl)C(C1=C(C=C(C=C1)OC)O)=O | C14H10Cl2O3
